US08975254B2
e) (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-dichlorobenzonitrile
The title compound was prepared from 2,6-dichloro-4-(1H-pyrazol-5-yl)benzonitrile (0.75 g, 3.15 mmol) and (S)-(−)-2-(tert-Butoxycarbonylamino)-1-propanol (0.552 g, 3.15 mmol) using the method of Example 34(c). Yield 0.121 g. 1H NMR (400 MHz; CDCl3): δ 1.15 (d, 3H), 1.54 (bs, 2H), 3.49 (m, 1H), 3.93 (dd, 1H), 4.14 (dd, 1H), 6.60 (d, 1H), 7.50 (d, 1H), 7.84 (s, 2H).

reactant | 2,6-dichloro-4-(1H-pyrazol-5-yl)benzonitrile | 3.15 mmol, 0.75 g | ClC1=C(C#N)C(=CC(=C1)C1=CC=NN1)Cl | C10H5Cl2N3
reactant | (S)-(−)-2-(tert-Butoxycarbonylamino)-1-propanol | 3.15 mmol, 0.552 g | C(C)(C)(C)OC(=O)N[C@H](CO)C | C8H17NO3
product | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-dichlorobenzonitrile | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)Cl)Cl)C | C13H12Cl2N4
